US04826814
O-anisic acid (1.0 g), N-hydroxysuccinimide (0.76 g) and water-soluble carbodiimide hydrochloride (1.39 g) were dissolved in methylene chloride (15 ml), and the solution was stirred overnight at room temperature. The precipitate was removed by filtration. The mother liquor was concentrated under reduced pressure, and the residue was crystallized from isopropanol to give 1.47 g of N-(2-methoxybenzoyloxy)succinimide (mp. 180°-182° C.).

reactant | O-anisic acid | 1.0 g | COC1=CC=CC=C1C(=O)O | C8H8O3
reactant | N-hydroxysuccinimide | 0.76 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | water | 1.39 g | O | H2O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | N-(2-methoxybenzoyloxy)succinimide | 1.47 g | COC1=C(C(=O)ON2C(CCC2=O)=O)C=CC=C1 | C12H11NO5
